* source PRACTICA 1-2
L_Lr         N14860 N14698  1mH  
R_Rr         N14698 N15386  10m TC=0,0 
R_Rcarga         0 OUT+  {carga} TC=0,0 
C_Cf         0 OUT+  1mF  TC=0,0 
V_V1         N14860 N15258  
+SIN 0 311 50Hz 0 0 0
D_D1         0 N15386 Dbreak 
D_D2         0 N15258 Dbreak 
D_D3         N15258 OUT+ Dbreak 
D_D4         N15386 OUT+ Dbreak 
.PARAM  carga=10
