* source PRACTICA1-4
V_V1         N15504 OUT/2  
+SIN 0 311 50Hz 0 0 0
L_Lr         N15504 N14595  1mH  
D_D1         N14595 OUT Dbreak 
D_D2         0 N14595 Dbreak 
C_C1         OUT OUT/2 1mF
C_C2         OUT/2 0 1mF
R_Rcarga         0 OUT  100 TC=0,0 
