* source PRACTICA1-7
V_Vred         N14426 0  
+SIN 0 311 50Hz 0 0 0
L_Lr         N14426 N14433  4mH  
D_D1         N14433 OUT Dbreak 
D_D2         0 OUT Dbreak 
I_Io         OUT 0 DC 100A  
